US08182781B2
Representative procedure for the preparation of acetylsilanes from monochlorosilanes: Under an atmosphere of argon, a 1.6 M solution of tert-butyl lithium in pentane (3.88 ml, 6.21 mmol) was added during 30 min. dropwise with stirring at −78° C. to a solution of ethyl vinyl ether (500 mg, 6.93 mmol) in THF (30 ml). The reaction mixture was then allowed to warm to 0° C. over a period of 3 h. At −50° C., chloro(dicyclopropyl)methyl-silane (1.00 g, 6.22 mmol) was then added in one single portion. After stirring for 16 h at room temp., the mixture was poured into water (30 ml) and was stirred for 10 min. The organic layer was separated, the aqueous one extracted with Et2O (2×30 ml). The combined organic solutions were dried (Na2SO4), and concentrated in a rotary evaporator to afford crude dicyclopropyl(1-ethoxyvinyl)methylsilane which was taken up in acetone/1N HCl (2:1, 12 ml). The reaction mixture was stirred for 45 min. at room temp. prior to the addition of water/Et2O (1:1, 30 ml). The organic layer was separated, and the aqueous one extracted with Et2O (2×15 ml). The combined ethereal extracts were dried (Na2SO4), and concentrated under reduced pressure. The resulting residue was purified by silica-gel chromatography (silica gel 40-63 μm, hexane/EtOAc, 9:1), and the relevant fractions were combined (GC) to provide 452 mg (43% over 2 steps) of acetyl(dicyclopropyl)methylsilane.

reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 6.21 mmol, 3.88 ml | CCCCC | C5H12
reactant | ethyl vinyl ether | 6.93 mmol, 500 mg | C(=C)OCC | C4H8O
reactant | chloro(dicyclopropyl)methyl-silane | 6.22 mmol, 1.00 g | Cl[SiH2]C(C1CC1)C1CC1 | C7H13ClSi
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | dicyclopropyl(1-ethoxyvinyl)methylsilane | C1(CC1)[SiH](CC(=C)OCC)C1CC1 | C11H20OSi
